US05208234
4'-Methyl[1,1'-biphenyl]-2-carboxamide
To a solution of 4'-Methyl[1,1'-biphenyl]-2-carboxylic acid, prepared as in European Patent Application 87-109919.8 Example 85-a, page 147, line 32 (20.0 g, 94.2 mmol) in dichloromethane (200 mL) at 0° C. was added dimethylformamide (0.5 mL) followed by oxalyl chloride (375 mL of 2.0 M solution in dichloromethane, 750 mmol). The rate of addition was adjusted to maintain the internal temperature below 10° C. When the addition was complete, the mixture was allowed to warm to 25° C. and was stirred at that temperature for two hours, after which it was concentrated in vacuo. The semisolid residue was added portionwise to concentrated ammonium hydroxide solution (250 mL) at 0° C., stirred for 15 minutes, and diluted with water (200 mL). The resulting white precipitate was collected, washed with water, and dried in vacuo over phosphorus pentoxide to give the title compound (18.7 g, 90%).

reactant | 4'-Methyl[1,1'-biphenyl]-2-carboxylic acid | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O | C14H12O2
reactant | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 750 mmol, 2.0 M, 375 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 4'-Methyl[1,1'-biphenyl]-2-carboxamide | 18.7 g, 90% | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)N | C14H13NO
